US09079853B2
1-butyl-2-oxoindolin-3-yl benzoate
Was prepared in a method analogous to 2-oxo-1-propylindolin-3-yl benzoate using 1-butylindoline-2,3-dione. 1H-NMR δ 8.11 (d, 2H), 7.58 (m, 1H), 7.49-7.34 (m, 4H), 7.05 (dd, 1H), 6.89 (d, 1H), 6.19 (s, 1H), 3.75 (m, 2H), 1.73 (m, 2H), 1.44 (m, 2H), 0.99 (t, 3H).

reactant | 2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CCC)=O | C18H17NO3
reactant | 1-butylindoline-2,3-dione | C(CCC)N1C(C(C2=CC=CC=C12)=O)=O | C12H13NO2
product | 1-butyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CCCC)=O | C19H19NO3
